parameters Ndiscmax0 = 18.082218340125 Ndiscmax1 = 20.13845399826599 Ndiscmax2 = 18.87667347002226 Ndiscmax3 = 20.374515385171783 Ndiscmax4 = 20.590249811632134 Ndiscmax5 = 19.750531620180332 Ndiscmax6 = 21.516934827775604 Ndiscmax7 = 19.205851388761452 Ndiscmax8 = 21.09406679715001 Ndiscmax9 = 18.704727389267497 Ndiscmax10 = 20.036392217523346 Ndiscmax11 = 20.26620730120165 Ndiscmax12 = 20.66558489625398 Ndiscmax13 = 20.74894605279319 Ndiscmax14 = 19.465839747244875 Ndiscmax15 = 20.758690868594936 Ndiscmax16 = 21.269121027669215 Ndiscmax17 = 19.459998720658113 Ndiscmax18 = 18.76335248432928 Ndiscmax19 = 20.4689219679359 Ndiscmax20 = 21.10806481439211 Ndiscmax21 = 20.724271481720578 Ndiscmax22 = 21.558583662872735 Ndiscmax23 = 19.996811456513917 Ndiscmax24 = 20.02694398221942  eps = 17 epsphib = 5.5 Ndiscmin=0.008
subckt my_ckt r0 r1 r2 r3 r4 c0 c1 c2 c3 c4 
I0 (r0 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax0  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I1 (r0 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax1  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I2 (r0 c2) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax2  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I3 (r0 c3) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax3  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I4 (r0 c4) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax4  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I5 (r1 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax5  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I6 (r1 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax6  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I7 (r1 c2) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax7  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I8 (r1 c3) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax8  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I9 (r1 c4) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax9  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I10 (r2 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax10  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I11 (r2 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax11  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I12 (r2 c2) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax12  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I13 (r2 c3) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax13  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I14 (r2 c4) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax14  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I15 (r3 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax15  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I16 (r3 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax16  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I17 (r3 c2) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax17  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I18 (r3 c3) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax18  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I19 (r3 c4) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax19  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I20 (r4 c0) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax20  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I21 (r4 c1) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax21  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I22 (r4 c2) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax22  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I23 (r4 c3) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax23  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
I24 (r4 c4) JART_VCM_1b_VAR eps = 17 epsphib = 5.5 phibn0 = 0.18 phin = 0.1 un = 4e-06 Ndiscmax = Ndiscmax24  Ndiscmin = 0.008 Ninit = Ndiscmin Nplug = 20 a = 2.5e-10 nyo = 20000000000000.0 dWa = 1.35 Rth0 = 15720000.0 rdet = 4.5e-08 rnew = 4.5e-08 lcell = 3 ldet = 0.4 lnew = 0.4 Rtheff_scaling = 0.27 RTiOx = 650 R0 = 719.244 Rthline = 90471.5 alphaline = 0.00392 eps_eff = (eps)*(8.85419e-12) epsphib_eff = (epsphib)*(8.85419e-12) 
ends my_ckt
XBAR (r0 r1 r2 r3 r4 c0 c1 c2 c3 c4 ) my_ckt
V0 (r0  0) vsource type=pulse val0=-1.4 val1=1.2 period=200n width=50n rise=25n fall=25n 
V1 (r1  0) vsource type=pulse val0=-1.1 val1=1.5 period=145n width=60n rise=35n fall=15n 
V2 (r2  0) vsource type=pulse val0=-1.3 val1=1.3 period=146n width=59n rise=34n fall=26n 
V3 (r3  0) vsource type=pulse val0=-0.9 val1=1.6 period=147n width=58n rise=33n fall=37n 
V4 (r4  0) vsource type=pulse val0=-1.2 val1=1.9 period=148n width=57n rise=32n fall=48n 
V5 (c0  0) vsource type=pulse val0=0.0 val1=0.0 period=200n width=50n rise=25n fall=25n 
V6 (c1  0) vsource type=pulse val0=0.0 val1=0.0 period=200n width=50n rise=25n fall=25n 
V7 (c2  0) vsource type=pulse val0=0.0 val1=0.0 period=200n width=50n rise=25n fall=25n 
V8 (c3  0) vsource type=pulse val0=0.0 val1=0.0 period=200n width=50n rise=25n fall=25n 
V9 (c4  0) vsource type=pulse val0=0.0 val1=0.0 period=200n width=50n rise=25n fall=25n 

 save XBAR.I0:OE XBAR.I1:OE XBAR.I2:OE XBAR.I3:OE XBAR.I4:OE XBAR.I5:OE XBAR.I6:OE XBAR.I7:OE XBAR.I8:OE XBAR.I9:OE XBAR.I10:OE XBAR.I11:OE XBAR.I12:OE XBAR.I13:OE XBAR.I14:OE XBAR.I15:OE XBAR.I16:OE XBAR.I17:OE XBAR.I18:OE XBAR.I19:OE XBAR.I20:OE XBAR.I21:OE XBAR.I22:OE XBAR.I23:OE XBAR.I24:OE 
ahdl_include "/net/home/zahr/Downloads/counterfeit/JART_VCM_1b_verilog-var.va"
trans tran stop=5u errpreset=conservative maxstep =1u write="spectre.ic" 		writefinal="spectre.fc" annotate=status maxiters=5
saveOptions options save=allpub